US07846959B2
To a solution of 5-bromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indole (0.96 g, 2.9 mmol) in tetrahydrofuran (30 mL) cooled to −78° C. was added n-butyllithium (1.6 M in hexanes, 2.2 mL, 3.5 mmol). After stirring for 15 min at −78° C., 2-cyanobenzaldehyde (0.58 g, 4.4 mmol in 2 mL tetrahydrofuran) was quickly added. After stirring for 30 min at −78° C. and allowing to warm to room temperature, the reaction mixture was quenched with an excess of saturated aqueous ammonium chloride solution, then diluted with ethyl acetate. The layers were separated and the aqueous layer was extracted (2×100 mL ethyl acetate). The combined organic layers were dried (sodium sulfate), filtered and concentrated in vacuo. Column chromatography (silica gel, 1:1 hexanes/ethyl acetate) gave 0.68 g (61%) of 2-{hydroxy[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]methyl}benzonitrile. 1H NMR (400 MHz, CDCl3): 7.99 (d, 1H), 7.60 (d, 1H), 7.57 (m, 2H), 7.53 (d, 1H), 7.27 (m, 2H), 7.10 (dd, 1H), 6.56 (m, 2H), 5.52 (s, 2H), 3.50 (m, 2H), 0.51 (m, 2H), 0.00 (s, 9H); MS (EI) for C22H26N2O2Si: 379 (MH+).

reactant | 5-bromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indole | 2.9 mmol, 0.96 g | BrC=1C=C2C=CN(C2=CC1)COCC[Si](C)(C)C | C14H20BrNOSi
reactant | n-butyllithium | 3.5 mmol, 1.6 M, 2.2 mL | C(CCC)[Li]
reactant | 2-cyanobenzaldehyde | 4.4 mmol, 2 mL, 0.58 g | C(#N)C1=C(C=O)C=CC=C1 | C8H5NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-{hydroxy[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]methyl}benzonitrile | 0.68 g, 61% | OC(C1=C(C#N)C=CC=C1)C=1C=C2C=CN(C2=CC1)COCC[Si](C)(C)C | C22H26N2O2Si
